US07285558B2
5-{2-[(5-chloro-1H-indol-3-yl)methyl]-7-isobutyl-5-methyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl}-1-methyl-N-1H-1,2,4-triazol-3-yl-1H-pyrrole-3-carboxamide
This compound was synthesized by the reaction of 5-{2-[(5-chloro-1H-indol-3-yl)methyl]-7-isobutyl-5-methyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl}-1-methyl-1H-pyrrole-3-carboxylic acid and 1H-1,2,4-triazol-3-amine using diethyl cyanophosphonate as a coupling reagent. Mass: 575.13 (M+H).

reactant | 5-{2-[(5-chloro-1H-indol-3-yl)methyl]-7-isobutyl-5-methyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl}-1-methyl-1H-pyrrole-3-carboxylic acid | ClC=1C=C2C(=CNC2=CC1)CN1N=C2N(C(N(C(C2=C1C1=CC(=CN1C)C(=O)O)=O)C)=O)CC(C)C | C25H25ClN6O4
reactant | 1H-1,2,4-triazol-3-amine | N1N=C(N=C1)N | C2H4N4
reactant | diethyl cyanophosphonate | C(#N)P(OCC)(OCC)=O | C5H10NO3P
product | 5-{2-[(5-chloro-1H-indol-3-yl)methyl]-7-isobutyl-5-methyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl}-1-methyl-N-1H-1,2,4-triazol-3-yl-1H-pyrrole-3-carboxamide | ClC=1C=C2C(=CNC2=CC1)CN1N=C2N(C(N(C(C2=C1C1=CC(=CN1C)C(=O)NC1=NNC=N1)=O)C)=O)CC(C)C | C27H27ClN10O3
